US09029601B2
2.89 g of 1-(3-bromo-5-chlorophenoxy)-3-(2-phenylpropan-2-yl)urea was dissolved in 30 ml of N,N-dimethyl formamide. The resulting solution was added to a mixture of 5.18 g of potassium carbonate and 1.17 g of iodoethane, followd by stirring for one night at room temperature. Ethyl actate was then added to the susulting solution. The resulting mixture was washed with ammonium chloride, and the organic layer was dried with magnesium sulfate. After filtration, the solvent was distilled off. The resulting residues was purified by silica gel column chromatography (eluent: hexane:ethyl acetate=5:1) to obtain the target compound of 1-(3-bromo-5-chlorophenoxy)-1-ethyl-3-(2-phenylpropan-2-yl)urea (2.86 g, yield: 92%).

reactant | 1-(3-bromo-5-chlorophenoxy)-3-(2-phenylpropan-2-yl)urea | 2.89 g | BrC=1C=C(ONC(=O)NC(C)(C)C2=CC=CC=C2)C=C(C1)Cl | C16H16BrClN2O2
reactant | potassium carbonate | 5.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.17 g | ICC | C2H5I
reactant | Ethyl actate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(3-bromo-5-chlorophenoxy)-1-ethyl-3-(2-phenylpropan-2-yl)urea | 2.86 g, yield: 92% | BrC=1C=C(ON(C(=O)NC(C)(C)C2=CC=CC=C2)CC)C=C(C1)Cl | C18H20BrClN2O2
